US04920117
6-Benzyl-4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine
In 50 ml dry DMF were combined 2.10 g 4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine, 2.0 g milled anhydrous K2CO3 and 1.3 ml benzylbromide. The mechanically stirred mixture was heated under nitrogen at 90° C. for 18 hours. During the first 4 hours, 1 ml benzyl bromide was added every hour as TLC analysis indicated it was being consumed. For the work-up, the mixture was poured in excess water and extracted with DCM. The DCM layer was concentrated to an oil and the oil was purified on a silica column (flash chromatography) using DCM as an eluent. The product-containing fractions were combined and concentrated to a solid. The solid was recrystallized from EtOAc/hexanes and dried in a vacuum desiccator to yield 2.10 g of product, m.p. 162°-163.5° C.

reactant | 4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine | 2.10 g | N=1OC=2CCCC3NC=4C=CC=CC4C1C23 | C13H12N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 1.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 1 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Benzyl-4,5,5a,6-tetrahydro-3H-isoxazolo[5,4,3-kl]acridine | 2.10 g | C(C1=CC=CC=C1)N1C=2C=CC=CC2C=2C3=C(CCCC13)ON2 | C20H18N2O
